US04889854
3.68 g of 4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxylic acid are suspended in 80 ml of toluene with the exclusion of moisture, whereupon 5.1 ml of thionyl chloride and 0.2 ml of N,N-dimethylformamide are added thereto and the mixture is stirred at room temperature for 2 hours. The reaction mixture is evaporated in vacuo; the residue is taken up in toluene, whereupon the solution is again evaporated in vacuo. The thus-obtained pure carboxylic acid chloride is taken up in 90 ml of dioxane, whereupon there are added thereto in succession 6.52 ml of triethylamine and 1.4 g of 3-hydroxyazetidine hydrochloride. The mixture is stirred at room temperature until the reaction has finished. After removing the solvent in vacuo, the residue is treated with a mixture of 200 ml of water and 100 ml of saturated aqueous sodium chloride solution, whereupon the mixture is cooled to about 2° and stirred for 30 minutes. The crystals are removed by filtration under suction and washed twice with 15 ml of water. The thus-obtained crystals are dried at 70° in vacuo. The aqueous phase is extracted three times with methylene chloride; the combined organic phases are washed once with 50 ml of water, dried over sodium sulfate, filtered and evaporated. The crystals are combined with the material obtained above and stirred in 150 ml of ether for 30 minutes. The ether is removed by filtration and the yellow crystals are dried. There is obtained 3-hydroxy-1-[(4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]azetidine of m.p. 260°-264° (dec.).

reactant | 4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxylic acid | 3.68 g | O=C1C(=CC(=C2N1N=CC1=CC=CC=C21)C(=O)O)C2=CC=CC=C2 | C19H12N2O3
reactant | thionyl chloride | 5.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-1-[(4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazin-1-yl)carbonyl]azetidine | OC1CN(C1)C(=O)C=1C=C(C(N2C1C1=CC=CC=C1C=N2)=O)C2=CC=CC=C2 | C22H17N3O3
